US08012956B2
A mixture of 1,1-dimethylethyl [(1S)-1-(4-bromophenyl)-ethyl]carbamate (14.4 g, 48 mmol), tris(dibenzylideneacetone)dipalladium(0) (4.6 g, 4.8 mmol), N-methylpiperazine (22 mL, 200 mmol), BINAP (1.4 g, 4.8 mmol) and tribasic potassium phosphate in ethylene glycol dimethylether (120 mL) was refluxed for 15 hours. On cooling to room temperature, the mixture was diluted with ethyl acetate (100 mL). The organic mixture was extracted using 1N aqueous hydrochloric acid (3×100 mL). The pH of the combined aqueous portions was adjusted to 10 and was then extracted using ethyl acetate (3×100 mL). The combined organic portion was washed with brine then dried over anhydrous sodium sulfate. Filtration and concentration afforded a brown residue which was purified by silica gel column chromatography. Eluting with 0-20% methanol in ethyl acetate, purified fractions were pooled and concentrated to afford 12.9 g, 40.5 mmol (84%) of 1,1-dimethylethyl {(1S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethyl}carbamate. 1H NMR (400 MHz, d6-DMSO): 7.16 (d, 2H), 6.84 (d, 2H), 4.54 (m, 1H), 3.07 (m, 4H), 2.42 (m, 4H) 2.21 (s, 3H), 1.38 (s, 9H), 1.25 (d, 3H). MS (EI) for C18H29N3O2: 320 (MH+).

reactant | 1,1-dimethylethyl [(1S)-1-(4-bromophenyl)-ethyl]carbamate | 48 mmol, 14.4 g | BrC1=CC=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O | C13H18BrNO2
reactant | N-methylpiperazine | 200 mmol, 22 mL | CN1CCNCC1 | C5H12N2
reactant | BINAP | 4.8 mmol, 1.4 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethylether | 120 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.8 mmol, 4.6 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl {(1S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethyl}carbamate | 40.5 mmol, 12.9 g, 84% | CN1CCN(CC1)C1=CC=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O | C18H29N3O2
